US08003685B2
A solution of 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(3,3-dimethyl-but-1-ynyl)-thiophene-2-carboxylic acid methyl ester (1.0 g, 2.0 mmol) in trimethylsilylacetylene (1.4 ml, 10 mmol) is treated in microwave at 120° C. for 2 h. The mixture is concentrated under reduced pressure and the residue is purified by silica gel column chromatography (5% ethyl acetate/hexane to 100% ethyl acetate) to afford 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilanyl-[1,2,3]triazol-1-yl)-cyclohexyl]-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(trans-4-azido-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(3,3-dimethyl-but-1-ynyl)-thiophene-2-carboxylic acid methyl ester | 2.0 mmol, 1.0 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)N=[N+]=[N-])C#CC(C)(C)C | C26H36N4O3S
reactant | trimethylsilylacetylene | 10 mmol, 1.4 ml | C[Si](C)(C)C#C | C5H10Si
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilanyl-[1,2,3]triazol-1-yl)-cyclohexyl]-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC(=C1)[Si](C)(C)C)C(=O)[C@@H]1CC[C@H](CC1)C)C#CC(C)(C)C | C31H46N4O3SSi
